US05070089
In a nitrogen atmosphere, 2.28 g (14.5 mmol.) of 2-methoxybenzyl chloride, 2.69 g (14.5 mmol., purity 94.8%) of methyl 1-piperazinecarbodithioate, 1.53 g (14.5 mmol.) of anhydrous sodium carbonate and 15 ml of ethanol were mixed and refluxed under heating for 18 hours. Insolubles were removed by filtration, and the solvent of the filtrate was distilled off under reduced pressure. To the residue were added 15 ml of dichloromethane and 15 ml of water. The organic solvent portion was taken out, washed with 17 ml of 1-N hydrochloric acid and 20 ml of 1-N aqueous sodium hydroxide solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography to give 1.92 g of methyl 4-(2-methoxybenzyl)-1-piperazinecarbodithioate, yield 44.7%.

reactant | 2-methoxybenzyl chloride | 14.5 mmol, 2.28 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | methyl 1-piperazinecarbodithioate | 14.5 mmol, 2.69 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 14.5 mmol, 1.53 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | methyl 4-(2-methoxybenzyl)-1-piperazinecarbodithioate | 1.92 g, yield 44.7% | COC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C14H20N2OS2
